US06432993B1
t-Butyl N-[2-amino-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[5-(4-hydroxy-2,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate (1.73 g), palladium on carbon (10%, 0.17 g) and methanol (50 ml) and the reaction mixture was purified to give the title compound (1.44 g).

reactant | t-butyl N-[5-(4-hydroxy-2,5-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 1.73 g | OC1=CC(=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1C)C | C20H24N2O6
catalyst | palladium on carbon | 0.17 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | t-Butyl N-[2-amino-5-(4-hydroxy-2,5-dimethylphenoxy)phenyl]-N-methylcarbamate | 1.44 g | NC1=C(C=C(C=C1)OC1=C(C=C(C(=C1)C)O)C)N(C(OC(C)(C)C)=O)C | C20H26N2O4
